US09102697B2
(S)-1,9-Dihydroxy-10-methoxy-5-(4-methoxybenzyloxy)-3-methyl-8-oxo-5,6,7,8-tetrahydroanthracene-2-carbaldehyde.
A solution of B-bromocatecholborane (418 mg, 2.10 mmol, 2.0 equiv) in dichloromethane (15 mL) was added to a solution of (S)-9-hydroxy-10-methoxy-5-(4-methoxybenzyloxy)-1-(methoxymethoxy)-3-methyl-8-oxo-5,6,7,8-tetrahydroanthracene-2-carbaldehyde (490 mg, 1.05 mmol, 1 equiv) in dichloromethane (15 mL) at −78° C. After 50 min, the reaction mixture was diluted with saturated aqueous sodium bicarbonate solution (25 mL) and dichloromethane (100 mL). The cooling bath was removed, and the partially frozen mixture was allowed to warm to 23° C. The biphasic mixture was diluted with 0.2 M aqueous sodium hydroxide solution (100 mL). The layers were separated. The aqueous layer was extracted with dichloromethane (100 mL). The organic layers were combined. The combined solution was washed sequentially with 0.1 M aqueous hydrochloric acid solution (100 mL), water (2×100 mL), then saturated aqueous sodium chloride solution (100 mL) and the washed solution was dried over sodium sulfate. The dried solution was filtered and the filtrate was concentrated to provide 380 mg of the product, (S)-1,9-dihydroxy-10-methoxy-5-(4-methoxybenzyloxy)-3-methyl-8-oxo-5,6,7,8-tetrahydroanthracene-2-carbaldehyde, as a yellow foam (86%). 1H NMR (500 MHz, CDCl3): 15.89 (br s, 1H), 12.81 (br s, 1H), 10.51 (s, 1H), 7.27-7.26 (m, 3H), 6.86 (d, 2H, J=9.2 Hz), 5.14 (app s, 1H), 4.62 (d, 1H, J=11.0 Hz), 4.51 (d, 1H, J=11.0 Hz), 3.85 (s, 3H), 3.80 (s, 3H), 3.21 (m, 1H), 2.73 (s, 3H), 2.62 (m, 1H), 2.54 (m, 1H), 2.07 (m, 1H). 13C NMR (125 MHz, CDCl3): 204.4, 192.7, 166.6, 164.3, 159.3, 144.4, 142.7, 137.9, 130.4, 130.2, 129.4, 114.9, 114.2, 113.9, 113.8, 109.4, 70.4, 67.1, 62.8, 55.3, 31.8, 26.5. FTIR, cm−1 (thin film): 3316 (br w), 2938 (m), 1678 (m), 1610 (s), 1514 (m), 1393 (m), 1246 (s). HRMS (ESI): Calcd for (C25H24O7+Na)+ 459.1414; Found 459.1354. TLC (50% ethyl acetate-hexanes): Rf=0.30 (CAM).

reactant | B-bromocatecholborane | 2.10 mmol, 418 mg, 2.0 equiv | B1(OC2=CC=CC=C2O1)Br | C6H4BBrO2
reactant | (S)-9-hydroxy-10-methoxy-5-(4-methoxybenzyloxy)-1-(methoxymethoxy)-3-methyl-8-oxo-5,6,7,8-tetrahydroanthracene-2-carbaldehyde | 1.05 mmol, 490 mg, 1 equiv | OC=1C=2C(CC[C@@H](C2C(=C2C=C(C(=C(C12)OCOC)C=O)C)OC)OCC1=CC=C(C=C1)OC)=O | C27H28O8
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | sodium bicarbonate | 25 mL | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | (S)-1,9-Dihydroxy-10-methoxy-5-(4-methoxybenzyloxy)-3-methyl-8-oxo-5,6,7,8-tetrahydroanthracene-2-carbaldehyde | 380 mg | OC1=C(C(=CC2=C(C=3[C@H](CCC(C3C(=C12)O)=O)OCC1=CC=C(C=C1)OC)OC)C)C=O | C25H24O7
